US06251936B1
(2R)-2-[4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-phenoxy]-3-phenyl-propionic acid
To a solution of (2R)-2-[4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-phenoxy]-3-phenyl-propionic acid methyl ester (3.1 g, 5.4 mmol) in tetrahydrofuran (125 mL) and methanol (41 mL) at room temperature was added dropwise aqueous potassium hydroxide (6.5 mL of a 1N solution, 6.5 mmol). After 1.5 h at room temperature the reaction mixture was placed in the freezer for 18 h. The reaction was removed from the freezer and allowed to stir at room temperature. More aqueous potassium hydroxide (19.5 mL of a 1N solution, 19.5 mmol) was added, and the reaction mixture was allowed to stir at room temperature for 9.5 h. Concentration under reduced pressure gave a residue which was diluted with water (1 L). The aqueous layer was acidified with concentrated hydrochloric acid to a pH of 1, and extracted with diethyl ether (700 mL). The diethyl ether layer was washed twice with water (500 mL), and then dried (Na2SO4). Concentration under reduced pressure and chromatography on silica gel (treated with 2% phosphoric acid in methanol) with petroleum ether:ethyl acetate (90:10, then 86:14) gave the title compound as a white solid foam (1.9 g, 64%): Opt. Rot. [a]25/D=+33.38° (10.035 mg/mL, MeOH); NMR (DMSO-d6): δ12.90 (broad singlet, 1H), 8.17 (d, 1H), 7.63 (ddd, 1H), 7.50-7.43 (m, 2H), 7.36-7.23 (m, 5H), 6.97 (s, 2H), 4.71 (t, 1H), 3.25 (d, 2H), 2.41 (s, 3H), 2.24 (s, 3H), 2.21 (s, 3H), 1.54 (s, 3H); MS(EI): [M+], 1 bromine isotope pattern, 558/560; Anal. Calc. for C31H27BrO3S: C, 66.55; H, 4.86; N, 0.00. Found: C, 65.91; H, 5.05; N, 0.09; Analytical HPLC indicates a major component (99.5%).

reactant | (2R)-2-[4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-phenoxy]-3-phenyl-propionic acid methyl ester | 5.4 mmol, 3.1 g | COC([C@@H](CC1=CC=CC=C1)OC1=C(C=C(C=C1C)C1=C2C=CC=CC2=C(C=2SC(=C(C21)C)C)Br)C)=O | C32H29BrO3S
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 125 mL | O1CCCC1 | C4H8O
solvent | methanol | 41 mL | CO | CH4O
solvent | water | 1 L | O | H2O
product | (2R)-2-[4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-phenoxy]-3-phenyl-propionic acid | BrC1=C2C=CC=CC2=C(C2=C1SC(=C2C)C)C2=CC(=C(O[C@@H](C(=O)O)CC1=CC=CC=C1)C(=C2)C)C | C31H27BrO3S
